US07402698B2
A solution of tert-butyl 4-(2-Pyridin-2-yl-ethyl)-piperazine-1-carboxylate (466 mg, 1.60 mmol) in dry tetrahydrofuran (6 mL) under nitrogen was cooled to −78° C. and treated dropwise with a solution of n-butyllithium (2.5 M in hexanes, 0.70 mL, 1.75 mmol). The resulting solution was stirred at −78° C. for 1 h. The reaction was then treated with a solution of cyclohexanone (174 mg, 1.77 mmol) in dry tetrahydrofuran (0.8 mL). The reaction was stirred at −78° C. for 45 min, after which time the reaction was then quenched by the addition of a saturated aqueous solution of sodium bicarbonate, and the tetrahydrofuran was removed in vacuo. The resulting residue was partitioned between water and ethyl acetate and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×30 mL), and the combined organic extracts were dried over magnesium sulfate and concentrated in vacuo and the product was purified via Biotage Horizon (FLASH 25 M, silica, gradient from 0% methanol/EtOAc to 10% methanol/EtOAc) to yield 484 mg (78%) tert-butyl 4-[2-(1-hydroxy-cyclohexyl)-2-pyridin-2-yl-ethyl]-piperazine-1-carboxylate as a colorless oil.

reactant | tert-butyl 4-(2-Pyridin-2-yl-ethyl)-piperazine-1-carboxylate | 1.60 mmol, 466 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C(=O)OC(C)(C)C | C16H25N3O2
reactant | n-butyllithium | 1.75 mmol, 2.5 M, 0.70 mL | C(CCC)[Li]
reactant | cyclohexanone | 1.77 mmol, 174 mg | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.8 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[2-(1-hydroxy-cyclohexyl)-2-pyridin-2-yl-ethyl]-piperazine-1-carboxylate | 484 mg, 78% | OC1(CCCCC1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C22H35N3O3
